US07071175B1
Methyl chloroformate (75 μL, 0.92 mmol) was added dropwise to a solution of 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-2-methyl-malonic acid mono-tert-butyl ester (348 mg, 0.915 mmol) and Et3N (123 μL, 0.92 mmol) in THF (6 mL). The reaction mixture was stirred for 20 min., filtered and added dropwise to a suspension of NaBH4 (39 mg, 1.04 mmol) in THF (6 mL) at 0° C. The reaction was stirred for 16 h at room temperature. 0.2 M HCl was added followed by EtOAc. The organic phase was washed with brine and dried. Concentration under reduced pressure followed by chromathography (toluene/EtOAc, 3:1→1:3) gave 3-(6tert-butoxycarbonylamino-pyridin-3-yl)-2-hydroxymethyl-2-methyl-propionic acid tert-butyl ester (190 mg, 57%).

reactant | Methyl chloroformate | 0.92 mmol, 75 μL | ClC(=O)OC | C2H3ClO2
reactant | 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-2-methyl-malonic acid mono-tert-butyl ester | 0.915 mmol, 348 mg | C(C)(C)(C)OC(C(C(=O)O)(C)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C19H28N2O6
reactant | Et3N | 0.92 mmol, 123 μL | CCN(CC)CC | C6H15N
reactant | NaBH4 | 1.04 mmol, 39 mg | [BH4-].[Na+]
reactant | HCl | 0.2 M | Cl | ClH
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(6tert-butoxycarbonylamino-pyridin-3-yl)-2-hydroxymethyl-2-methyl-propionic acid tert-butyl ester | 190 mg, 57% | C(C)(C)(C)OC(C(CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)(C)CO)=O | C19H30N2O5
